US06555577B1
The colourless gum (E)-3-(3′,5′-dichloro-biphenyl-4-yl)-prop-2-en-1-ol was prepared by DIBAL-H reduction of (E)-ethyl 3-(3′,5′-dichloro-biphenyl-4-yl)-acrylate as described for example 52b.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | (E)-ethyl 3-(3′,5′-dichloro-biphenyl-4-yl)-acrylate | ClC=1C=C(C=C(C1)Cl)C1=CC=C(C=C1)/C=C/C(=O)OCC | C17H14Cl2O2
product | (E)-3-(3′,5′-dichloro-biphenyl-4-yl)-prop-2-en-1-ol | ClC=1C=C(C=C(C1)Cl)C1=CC=C(C=C1)/C=C/CO | C15H12Cl2O
